US04340539
306 mg. (0.001 ml) of BL-P2013 was dissolved in 7 ml. H2O and added to a solution of 180 mg. (0.0005 mol) of N,N'-dibenzylethylenediamine diacetate in 7 ml. H2O. The mixture was stirred and the salt crystallized and after stirring approximately 10-15 minutes the salt was collected by filtration and air dried to yield N,N'-dibenzylethylenediamine salt of BL-P2013 (300 mg). The material was recrystallized by dissolving it in approximately 10 ml. of boiling acetone and diluting with ether to the cloud point. 260 mg. of air dried and vacuum dried material was obtained.

reactant | N,N'-dibenzylethylenediamine diacetate | 0.0005 mol | C(C)(=O)O.C(C)(=O)O.C(C1=CC=CC=C1)NCCNCC1=CC=CC=C1
solvent | H2O | O | H2O
product | N,N'-dibenzylethylenediamine | C(C1=CC=CC=C1)NCCNCC1=CC=CC=C1 | C16H20N2
